US07973060B2
Synthesis of 4-pentyloxy-1H-pyridin-2-one
A solution of pentanol (2.7 g, 31 mmol) and tert-butoxide (3.5 g, 31 mmol) in solvent of tert-butanol was stirred for 1 hr at room temperature followed by addition of 4-nitropyridine-N-oxide (4 g, 28.6 mmol). After the reaction was done, the resulting solution was worked up with ethyl acetate and water, separated and the organic solvent was dried completely. After the addition of toluene, the solvent was removed under a reduced pressure. Acetic anhydride (40 ml) was added to the residual mixture and refluxed for 3 hrs. Acetic anhydride was dried completely followed by adding of MeOH (20 ml) and 3N NaOH (5 ml) and stirring 1 hr. MeOH was dried adequately then the residual mixture was made neutral with 6N HCl. The resulting solution was extracted with Ethyl acetate (80 ml) and subjected to silica gel column chromatography (ethyl acetate/MeOH, 10:1) to obtain the titled compound (2.3 g, 56%).

reactant | pentanol | 31 mmol, 2.7 g | C(CCCC)O | C5H12O
reactant | tert-butoxide | 31 mmol, 3.5 g | CC(C)([O-])C
reactant | tert-butanol | C(C)(C)(C)O | C4H10O
reactant | 4-nitropyridine-N-oxide | 28.6 mmol, 4 g | [N+](=O)([O-])C1=CC=[N+](C=C1)[O-] | C5H4N2O3
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-pentyloxy-1H-pyridin-2-one | 2.3 g, 56% | C(CCCC)OC1=CC(NC=C1)=O | C10H15NO2
